US04005222
-- A mixture of methyl 3-(2-chloroacetamido)benzoate (16 g., 0.07 mole) and potassium thiolacetate (7.1 g., 0.065 mole) in 150 ml. of acetone is refluxed for 4.5 hr. After cooling, the reaction mixture is filtered and the filtrate concentrated under reduced pressure. The residual solid thus obtained is slurried with n-hexane to afford an 86% yield of crude product. Crystallization of the crude product from ethyl acetate-n-hexane affords analytically pure METHYL 3-[2-(ACETYLTHIO)ACETAMIDO]BENZOATE, m.p. 117.5°-119.5° C.

reactant | methyl 3-(2-chloroacetamido)benzoate | 0.07 mole, 16 g | ClCC(=O)NC=1C=C(C(=O)OC)C=CC1 | C10H10ClNO3
reactant | potassium thiolacetate | 0.065 mole, 7.1 g | S1C(=CC=C1)CC(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | n-hexane | CCCCCC | C6H14
product | METHYL 3-[2-(ACETYLTHIO)ACETAMIDO]BENZOATE | C(C)(=O)SCC(=O)NC=1C=C(C(=O)OC)C=CC1 | C12H13NO4S
